US04323708
Into the reactor described in the foregoing Example 7 there are charged 200 ml of a 4% aqueous solution of hydrochloric acid and 4 g of 2,4-dinitrophenol are added thereto. Hydrogen is continuously introduced inside the chamber under the pressure of 1 atm at the rate of 15 ml/min. The reactor is heated to the temperature of 50° C. and hydrogenation is conducted at this temperature for 1.5 hours. After cooling and precipitation with a 37% hydrochloric acid there are obtained 3.9 g of 2,4-diaminophenol dihydrochloride which corresponds to 91.5% as calculated for the starting 2,4-dinitrophenol.

reactant | hydrochloric acid | Cl | ClH
reactant | 2,4-dinitrophenol | 4 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
reactant | Hydrogen | [H][H] | H2
product | 2,4-diaminophenol dihydrochloride | 3.9 g | Cl.Cl.NC1=C(C=CC(=C1)N)O | InChI=1S/C6H8N2O.2ClH/c7-4-1-2-6(9)5(8)3-4;;/h1-3,9H,7-8H2;2*1H
